US04946496
1-Methylpyrazole-3-sulfonamide
A mixture containing chloroform (100 ml), 13.6 g of 1-methylpyrazole-3-sulfonyl chloride and 13.6 g ammonium carbonate was heated to reflux for six hours, cooled, filtered and the solid was washed with water. The water-insoluble solid which was recrystallized from 50% ethanol-water melted at 149°-151° and showed absorption peaks in the infrared at 3100 and 3200 cm-1, consistent for the NH2 in the desired product.

reactant | 1-methylpyrazole-3-sulfonyl chloride | 13.6 g | CN1N=C(C=C1)S(=O)(=O)Cl | C4H5ClN2O2S
reactant | ammonium carbonate | 13.6 g | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-Methylpyrazole-3-sulfonamide | CN1N=C(C=C1)S(=O)(=O)N | C4H7N3O2S
